### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph/Sum): add homomorphism, embedding and isomorphism of sums

### PR DESCRIPTION
**Pull request by IvanRenison**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Sum.lean [hunk 1]
```diff
@@ -71,6 +71,25 @@ def Embedding.sumInr : H ↪g G ⊕g H where
   inj' u v := by simp
   map_rel_iff' := by simp
 
+/-- Given homomorphisms `f : G →g G'` and `g : H →g H'`, returns a homomorphism from `G ⊕g H` to
+  `G' ⊕g H'` that applies `f` to the left component and `g` to the right component. -/
```
Comment (mkaratarakis) [inline Mathlib/Combinatorics/SimpleGraph/Sum.lean]: Second line in the docstring shouldn't be indented

File: Mathlib/Combinatorics/SimpleGraph/Sum.lean [hunk 2]
```diff
@@ -71,6 +71,25 @@ def Embedding.sumInr : H ↪g G ⊕g H where
...
+def Hom.sum (f : G →g G') (g : H →g H') : G ⊕g H →g G' ⊕g H' where
+  toFun := Sum.map f g
+  map_rel' {u v} := by cases u <;> cases v <;> simp_all [f.map_rel, g.map_rel]
+
+/-- Given embeddings `f : G ↪g G'` and `g : H ↪g H'`, returns an embedding from `G ⊕g H` to
+  `G' ⊕g H'` that applies `f` to the left component and `g` to the right component. -/
+def Enbedding.sum (f : G ↪g G') (g : H ↪g H') : G ⊕g H ↪g G' ⊕g H' where
```
Comment (mkaratarakis) [inline Mathlib/Combinatorics/SimpleGraph/Sum.lean]: small typo;  E**m**bedding

File: Mathlib/Combinatorics/SimpleGraph/Sum.lean [hunk 3]
```diff
@@ -71,6 +71,25 @@ def Embedding.sumInr : H ↪g G ⊕g H where
...
+  toFun := Sum.map f g
+  inj' u v := by cases u <;> cases v <;> simp
+  map_rel_iff' {u v} := by cases u <;> cases v <;> simp
+
+/-- Given isomorphisms `f : G ≃g G'` and `g : H ≃g H'`, returns an isomorphism from `G ⊕g H` to
+  `G' ⊕g H'` that applies `f` to the left component and `g` to the right component. -/
+def Iso.sum (f : G ≃g G') (g : H ≃g H') : G ⊕g H ≃g G' ⊕g H' where
```
Comment (mkaratarakis) [inline Mathlib/Combinatorics/SimpleGraph/Sum.lean]: This should be called `Iso.sumCongr` ?

File: Mathlib/Combinatorics/SimpleGraph/Sum.lean [hunk 4]
```diff
@@ -71,6 +71,25 @@ def Embedding.sumInr : H ↪g G ⊕g H where
...
   map_rel_iff' := by simp
 
+/-- Given homomorphisms `f : G →g G'` and `g : H →g H'`, returns a homomorphism from `G ⊕g H` to
+  `G' ⊕g H'` that applies `f` to the left component and `g` to the right component. -/
+def Hom.sum (f : G →g G') (g : H →g H') : G ⊕g H →g G' ⊕g H' where
+  toFun := Sum.map f g
+  map_rel' {u v} := by cases u <;> cases v <;> simp_all [f.map_rel, g.map_rel]
+
+/-- Given embeddings `f : G ↪g G'` and `g : H ↪g H'`, returns an embedding from `G ⊕g H` to
+  `G' ⊕g H'` that applies `f` to the left component and `g` to the right component. -/
```
Comment (mkaratarakis) [inline Mathlib/Combinatorics/SimpleGraph/Sum.lean]: Same here

File: Mathlib/Combinatorics/SimpleGraph/Sum.lean [hunk 5]
```diff
@@ -71,6 +71,25 @@ def Embedding.sumInr : H ↪g G ⊕g H where
...
+def Enbedding.sum (f : G ↪g G') (g : H ↪g H') : G ⊕g H ↪g G' ⊕g H' where
+  toFun := Sum.map f g
+  inj' u v := by cases u <;> cases v <;> simp
+  map_rel_iff' {u v} := by cases u <;> cases v <;> simp
+
+/-- Given isomorphisms `f : G ≃g G'` and `g : H ≃g H'`, returns an isomorphism from `G ⊕g H` to
+  `G' ⊕g H'` that applies `f` to the left component and `g` to the right component. -/
```
Comment (mkaratarakis) [inline Mathlib/Combinatorics/SimpleGraph/Sum.lean]: Same here

**Review by mkaratarakis — COMMENTED** [review]
Thanks! @YaelDillies could take a look please?

File: Mathlib/Combinatorics/SimpleGraph/Sum.lean [hunk 6]
```diff
@@ -28,8 +28,8 @@ both in `G` and adjacent in `G`, or they are both in `H` and adjacent in `H`.
 @[expose] public section
 
 namespace SimpleGraph
-variable {V W U γ : Type*} {G : SimpleGraph V} {H : SimpleGraph W} {I : SimpleGraph U}
-  {v v' : V} {w w' : W}
+variable {V W U V' W' γ : Type*} {G : SimpleGraph V} {H : SimpleGraph W} {I : SimpleGraph U}
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Sum.lean]:
```suggestion
variable {U V V' W W' γ : Type*} {G : SimpleGraph V} {H : SimpleGraph W} {I : SimpleGraph U}
```
no?

File: Mathlib/Combinatorics/SimpleGraph/Sum.lean [hunk 7]
```diff
@@ -71,6 +71,25 @@ def Embedding.sumInr : H ↪g G ⊕g H where
...
+`G' ⊕g H'` that applies `f` to the left component and `g` to the right component. -/
+def Embedding.sum (f : G ↪g G') (g : H ↪g H') : G ⊕g H ↪g G' ⊕g H' where
+  toFun := Sum.map f g
+  inj' u v := by cases u <;> cases v <;> simp
+  map_rel_iff' {u v} := by cases u <;> cases v <;> simp
+
+/-- Given isomorphisms `f : G ≃g G'` and `g : H ≃g H'`, returns an isomorphism from `G ⊕g H` to
+`G' ⊕g H'` that applies `f` to the left component and `g` to the right component. -/
+def Iso.sumCongr (f : G ≃g G') (g : H ≃g H') : G ⊕g H ≃g G' ⊕g H' where
+  toEquiv := Equiv.sumCongr f.toEquiv g.toEquiv
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Sum.lean]:
```suggestion
  toEquiv := f.toEquiv.sumCongr g.toEquiv
```

File: Mathlib/Combinatorics/SimpleGraph/Sum.lean [hunk 8]
```diff
@@ -71,6 +71,25 @@ def Embedding.sumInr : H ↪g G ⊕g H where
   inj' u v := by simp
   map_rel_iff' := by simp
 
+/-- Given homomorphisms `f : G →g G'` and `g : H →g H'`, returns a homomorphism from `G ⊕g H` to
+`G' ⊕g H'` that applies `f` to the left component and `g` to the right component. -/
+def Hom.sum (f : G →g G') (g : H →g H') : G ⊕g H →g G' ⊕g H' where
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Sum.lean:77]: You need 
```suggestion
@[simps]
def Hom.sum (f : G →g G') (g : H →g H') : G ⊕g H →g G' ⊕g H' where
```

File: Mathlib/Combinatorics/SimpleGraph/Sum.lean [hunk 9]
```diff
@@ -71,6 +71,25 @@ def Embedding.sumInr : H ↪g G ⊕g H where
...
+  toFun := Sum.map f g
+  map_rel' {u v} := by cases u <;> cases v <;> simp_all [f.map_rel, g.map_rel]
+
+/-- Given embeddings `f : G ↪g G'` and `g : H ↪g H'`, returns an embedding from `G ⊕g H` to
+`G' ⊕g H'` that applies `f` to the left component and `g` to the right component. -/
+def Embedding.sum (f : G ↪g G') (g : H ↪g H') : G ⊕g H ↪g G' ⊕g H' where
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Sum.lean:92]: And here too, but also showing this coerced to a hom is `Hom.sum`. Same below

File: Mathlib/Combinatorics/SimpleGraph/Sum.lean [hunk 10]
```diff
@@ -71,6 +71,36 @@ def Embedding.sumInr : H ↪g G ⊕g H where
...
+  toFun := Sum.map f g
+  inj' u v := by cases u <;> cases v <;> simp
+  map_rel_iff' {u v} := by cases u <;> cases v <;> simp
+
+lemma Embedding.toHom_sum (f : G ↪g G') (g : H ↪g H') :
+  (Embedding.sum f g).toHom = Hom.sum f.toHom g.toHom := rfl
+
+/-- Given isomorphisms `f : G ≃g G'` and `g : H ≃g H'`, returns an isomorphism from `G ⊕g H` to
+`G' ⊕g H'` that applies `f` to the left component and `g` to the right component. -/
+def Iso.sumCongr (f : G ≃g G') (g : H ≃g H') : G ⊕g H ≃g G' ⊕g H' where
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Sum.lean:112]:
```suggestion
@[simps!, simps toEquiv]
def Iso.sumCongr (f : G ≃g G') (g : H ≃g H') : G ⊕g H ≃g G' ⊕g H' where
```
no?

**Review by YaelDillies — COMMENTED** [review]
I'm tempted to call these `sumMap` to distinguish from the similar operations based on `Sum.elim`.

Could you also show these commute (in the appropriate sense) with `Equiv.sumComm`,
`Equiv.sumAssoc`?

File: Mathlib/Combinatorics/SimpleGraph/Sum.lean [hunk 11]
```diff
@@ -78,6 +78,14 @@ def Hom.sum (f : G →g G') (g : H →g H') : G ⊕g H →g G' ⊕g H' where
   toFun := Sum.map f g
   map_rel' {u v} := by cases u <;> cases v <;> simp_all [f.map_rel, g.map_rel]
 
+lemma Hom.sum_comm_sumComm (f : G →g G') (g : H →g H') :
+    comp (sum f g) Iso.sumComm.toHom = comp Iso.sumComm.toHom (sum g f) := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Sum.lean]: How about
```suggestion
lemma Hom.sum_comp_sumComm (f : G →g G') (g : H →g H') :
    comp (sum f g) Iso.sumComm.toHom = comp Iso.sumComm.toHom (sum g f) := by
```

File: Mathlib/Combinatorics/SimpleGraph/Sum.lean [hunk 12]
```diff
@@ -71,6 +71,62 @@ def Embedding.sumInr : H ↪g G ⊕g H where
...
+def Hom.sum (f : G →g G') (g : H →g H') : G ⊕g H →g G' ⊕g H' where
+  toFun := Sum.map f g
+  map_rel' {u v} := by cases u <;> cases v <;> simp_all [f.map_rel, g.map_rel]
+
+lemma Hom.sum_comp_sumComm (f : G →g G') (g : H →g H') :
+    comp (sum f g) Iso.sumComm.toHom = comp Iso.sumComm.toHom (sum g f) := by
+  ext (v | w) <;> simp
+
+lemma Hom.sum_comp_sumAssoc (f : G →g G') (g : H →g H') (h : I →g I') :
+    comp Iso.sumAssoc.toHom (sum (sum f g) h) = comp (sum f (sum g h)) Iso.sumAssoc.toHom := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Sum.lean]:
```suggestion
lemma Hom.sum_sum_comp_sumAssoc (f : G →g G') (g : H →g H') (h : I →g I') :
    comp (sum f (sum g h)) Iso.sumAssoc.toHom = comp Iso.sumAssoc.toHom (sum (sum f g) h) := by
```
Same below

File: Mathlib/Combinatorics/SimpleGraph/Sum.lean [hunk 13]
```diff
@@ -71,6 +71,62 @@ def Embedding.sumInr : H ↪g G ⊕g H where
...
+/-- Given embeddings `f : G ↪g G'` and `g : H ↪g H'`, returns an embedding from `G ⊕g H` to
+`G' ⊕g H'` that applies `f` to the left component and `g` to the right component. -/
+@[simps]
+def Embedding.sum (f : G ↪g G') (g : H ↪g H') : G ⊕g H ↪g G' ⊕g H' where
+  toFun := Sum.map f g
+  inj' u v := by cases u <;> cases v <;> simp
+  map_rel_iff' {u v} := by cases u <;> cases v <;> simp
+
+lemma Embedding.toHom_sum (f : G ↪g G') (g : H ↪g H') :
+  (Embedding.sum f g).toHom = Hom.sum f.toHom g.toHom := rfl
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Sum.lean]:
```suggestion
    (Embedding.sum f g).toHom = Hom.sum f.toHom g.toHom := rfl
```
Same below

File: Mathlib/Combinatorics/SimpleGraph/Sum.lean [hunk 14]
```diff
@@ -71,6 +71,62 @@ def Embedding.sumInr : H ↪g G ⊕g H where
...
+  map_rel_iff' {u v} := by cases u <;> cases v <;> simp [f.map_rel_iff, g.map_rel_iff]
+
+lemma Iso.toHom_sumCongr (f : G ≃g G') (g : H ≃g H') :
+  (Iso.sumCongr f g).toHom = Hom.sum f.toHom g.toHom := rfl
+
+lemma Iso.toEmbedding_sumCongr (f : G ≃g G') (g : H ≃g H') :
+  (Iso.sumCongr f g).toEmbedding = Embedding.sum f.toEmbedding g.toEmbedding := rfl
+
+lemma Iso.sumCongr_comp_sumComm (f : G ≃g G') (g : H ≃g H') :
+    comp sumComm (sumCongr f g) = comp (sumCongr g f) sumComm := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Sum.lean]:
```suggestion
lemma Iso.sumComm_comp_sumCongr (f : G ≃g G') (g : H ≃g H') :
    comp sumComm (sumCongr f g) = comp (sumCongr g f) sumComm := by
```
Same below

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Review by b-mehta — COMMENTED** [review]
Nice, thanks!

bors merge
